US05576334
In a similar manner to Example 2, starting material step (b), t-butyl bromoacetate (5.6 ml), 2-fluoro-4-nitrophenol (5 g), anhydrous potassium carbonate (5.3 g) and acetone (200 ml) were reacted to give t-butyl 2-fluoro-4-nitrophenoxyacetate (8.3 g) as an off-white solid: m.p. 62°-64° C.; NMR Spectrum (DMSO-d6) 1.49 (9H, s), 4.70 (2H, s), 6.94 (1H, m), 8.01 (2H, m); Mass Spectrum m/Z 272 (M+H)+.

reactant | t-butyl bromoacetate | 5.6 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | 2-fluoro-4-nitrophenol | 5 g | FC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H4FNO3
reactant | potassium carbonate | 5.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | t-butyl 2-fluoro-4-nitrophenoxyacetate | 8.3 g | FC1=C(OCC(=O)OC(C)(C)C)C=CC(=C1)[N+](=O)[O-] | C12H14FNO5
